US06110924
b) Preparation of 4-(hydroxyethylidene)piperidine
A solution of 15 ml of DIBAL (1.5 M solution in toluene) in 20 ml of toluene is added dropwise with 0.976 g of 4-(ethoxycarbonylmethylidene)piperidine, dissolved in few milliliter of toluene. The reaction mixture is stirred at room temperature for 2 hours, then it is cooled to 0-5° C. and added dropwise with methanol, until the gaz development is seen. The mixture is concentrated to a little volume and diethyl ether is added: a white solid separates, which is filtered off. The organic phase is concentrated to dryness, redissolved in diethyl ether and again filtered. The clear solution is concentrated to dryness to give 500 mg of the product.

reactant | DIBAL | 1.5 M, 15 ml | CC(C)C[AlH]CC(C)C
reactant | 4-(ethoxycarbonylmethylidene)piperidine | 0.976 g | C(C)OC(=O)C=C1CCNCC1 | C9H15NO2
reactant | methanol | CO | CH4O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(hydroxyethylidene)piperidine | 500 mg | OCC=C1CCNCC1 | C7H13NO
